* source I-NAND
M_NAND7_M1         N002598 N00403 NAND7_ND2 0 CMOSN  
+ L=.18u  
+ W=1.92u         
M_NAND7_M14         NAND7_ND7 N01593 0 0 CMOSN  
+ L=.18u  
+ W=1.92u         
M_NAND7_M8         N002598 N01593 N00403 N00403 CMOSP  
+ L=.58u  
+ W=.58u         
M_NAND7_M2         NAND7_ND2 N01593 NAND7_ND3 0 CMOSN  
+ L=.18u  
+ W=1.92u         
M_NAND7_M3         N002598 N01593 N00403 N00403 CMOSP  
+ L=.58u  
+ W=.58u         
M_NAND7_M4         N002598 N01593 N00403 N00403 CMOSP  
+ L=.58u  
+ W=.58u         
M_NAND7_M11         N002598 N00403 N00403 N00403 CMOSP  
+ L=.58u  
+ W=.58u         
M_NAND7_M7         NAND7_ND4 N01593 NAND7_ND5 0 CMOSN  
+ L=.18u  
+ W=1.92u         
M_NAND7_M9         N002598 N01593 N00403 N00403 CMOSP  
+ L=.58u  
+ W=.58u         
M_NAND7_M6         NAND7_ND3 N01593 NAND7_ND4 0 CMOSN  
+ L=.18u  
+ W=1.92u         
M_NAND7_M12         N002598 N01593 N00403 N00403 CMOSP  
+ L=.58u  
+ W=.58u         
M_NAND7_M5         N002598 N01593 N00403 N00403 CMOSP  
+ L=.58u  
+ W=.58u         
M_NAND7_M10         NAND7_ND5 N01593 NAND7_ND6 0 CMOSN  
+ L=.18u  
+ W=1.92u         
M_NAND7_M13         NAND7_ND6 N01593 NAND7_ND7 0 CMOSN  
+ L=.18u  
+ W=1.92u         
M_NEG_M5         N005232 N01593 N00403 N00403 CMOSP  
+ L=.25u  
+ W=.93u         
M_NEG_M6         N005232 N01593 0 0 CMOSN  
+ L=.43u  
+ W=.43u         
R_R7         N005232 N00403  1Meg  
M_NAND2_M5         N000482 N00403 N00403 N00403 CMOSP  
+ L=.186u  
+ W=.25u         
M_NAND2_M6         N000482 N00403 NAND2_ND2 0 CMOSN  
+ L=.2u  
+ W=.232u         
M_NAND2_M2         NAND2_ND2 N01593 0 0 CMOSN  
+ L=.2u  
+ W=.232u         
M_NAND2_M4         N000482 N01593 N00403 N00403 CMOSP  
+ L=.186u  
+ W=.25u         
R_R2         N000894 N00403  1Meg  
M_NAND8_M16         N003209 N01593 N00403 N00403 CMOSP  
+ L=.67u  
+ W=.68u         
M_NAND8_M5         N003209 N01593 N00403 N00403 CMOSP  
+ L=.67u  
+ W=.68u         
M_NAND8_M11         N003209 N00403 N00403 N00403 CMOSP  
+ L=.67u  
+ W=.68u         
M_NAND8_M9         N003209 N01593 N00403 N00403 CMOSP  
+ L=.67u  
+ W=.68u         
M_NAND8_M1         N003209 N00403 NAND8_ND2 0 CMOSN  
+ L=.18u  
+ W=2.55u         
M_NAND8_M6         NAND8_ND3 N01593 NAND8_ND4 0 CMOSN  
+ L=.18u  
+ W=2.55u         
M_NAND8_M7         NAND8_ND4 N01593 NAND8_ND5 0 CMOSN  
+ L=.18u  
+ W=2.55u         
M_NAND8_M12         N003209 N01593 N00403 N00403 CMOSP  
+ L=.67u  
+ W=.68u         
M_NAND8_M2         NAND8_ND2 N01593 NAND8_ND3 0 CMOSN  
+ L=.18u  
+ W=2.55u         
M_NAND8_M13         NAND8_ND6 N01593 NAND8_ND7 0 CMOSN  
+ L=.18u  
+ W=2.55u         
M_NAND8_M10         NAND8_ND5 N01593 NAND8_ND6 0 CMOSN  
+ L=.18u  
+ W=2.55u         
M_NAND8_M3         N003209 N01593 N00403 N00403 CMOSP  
+ L=.67u  
+ W=.68u         
M_NAND8_M14         NAND8_ND7 N01593 NAND8_ND8 0 CMOSN  
+ L=.18u  
+ W=2.55u         
M_NAND8_M8         N003209 N01593 N00403 N00403 CMOSP  
+ L=.67u  
+ W=.68u         
M_NAND8_M4         N003209 N01593 N00403 N00403 CMOSP  
+ L=.67u  
+ W=.68u         
M_NAND8_M15         NAND8_ND8 N01593 0 0 CMOSN  
+ L=.18u  
+ W=2.55u         
M_NAND3_M2         NAND3_ND2 N01593 NAND3_ND3 0 CMOSN  
+ L=.18u  
+ W=.37u         
M_NAND3_M3         N000894 N00403 N00403 N00403 CMOSP  
+ L=.25u  
+ W=.26u         
M_NAND3_M6         NAND3_ND3 N01593 0 0 CMOSN  
+ L=.18u  
+ W=.37u         
M_NAND3_M4         N000894 N01593 N00403 N00403 CMOSP  
+ L=.25u  
+ W=.26u         
M_NAND3_M1         N000894 N00403 NAND3_ND2 0 CMOSN  
+ L=.18u  
+ W=.37u         
M_NAND3_M5         N000894 N01593 N00403 N00403 CMOSP  
+ L=.25u  
+ W=.26u         
R_R3         N001535 N00403  1Meg  
V_V1         N00403 0 3.3
R_R4         N002026 N00403  1Meg  
M_NAND4_M7         N001535 N00403 N00403 N00403 CMOSP  
+ L=.33u  
+ W=.25u         
M_NAND4_M8         N001535 N01593 N00403 N00403 CMOSP  
+ L=.33u  
+ W=.25u         
M_NAND4_M12         N001535 N01593 N00403 N00403 CMOSP  
+ L=.33u  
+ W=.25u         
M_NAND4_M9         N001535 N01593 N00403 N00403 CMOSP  
+ L=.33u  
+ W=.25u         
M_NAND4_M1         N001535 N00403 NAND4_ND2 0 CMOSN  
+ L=.18u  
+ W=.47u         
M_NAND4_M10         NAND4_ND3 N01593 NAND4_ND4 0 CMOSN  
+ L=.18u  
+ W=.47u         
M_NAND4_M3         NAND4_ND2 N01593 NAND4_ND3 0 CMOSN  
+ L=.18u  
+ W=.47u         
M_NAND4_M11         NAND4_ND4 N01593 0 0 CMOSN  
+ L=.18u  
+ W=.47u         
R_R1         N000482 N00403  1Meg  
V_V2         N01593 0 0Vdc
R_R5         N002598 N00403  1Meg  
M_NAND5_M4         N002026 N01593 N00403 N00403 CMOSP  
+ L=.41u  
+ W=.44u         
M_NAND5_M9         N002026 N01593 N00403 N00403 CMOSP  
+ L=.41u  
+ W=.44u         
M_NAND5_M7         NAND5_ND4 N01593 NAND5_ND5 0 CMOSN  
+ L=.18u  
+ W=1.042u         
M_NAND5_M10         NAND5_ND5 N01593 0 0 CMOSN  
+ L=.18u  
+ W=1.042u         
M_NAND5_M5         N002026 N01593 N00403 N00403 CMOSP  
+ L=.41u  
+ W=.44u         
M_NAND5_M8         N002026 N01593 N00403 N00403 CMOSP  
+ L=.41u  
+ W=.44u         
M_NAND5_M1         N002026 N00403 NAND5_ND2 0 CMOSN  
+ L=.18u  
+ W=1.042u         
M_NAND5_M6         NAND5_ND3 N01593 NAND5_ND4 0 CMOSN  
+ L=.18u  
+ W=1.042u         
M_NAND5_M2         NAND5_ND2 N01593 NAND5_ND3 0 CMOSN  
+ L=.18u  
+ W=1.042u         
M_NAND5_M3         N002026 N00403 N00403 N00403 CMOSP  
+ L=.41u  
+ W=.44u         
R_R6         N003209 N00403  1Meg  
